US08044236B2
(4) Preparation of (Z)-3-{4-[4 (tert-butyl)phenoxy]-4′-(trifluoromethoxy)biphenyl-3-yl}propenoic acid (compound No. 12).
A mixture of methyl (Z)-3-{4-[4-(tert-butyl)phenoxy]-4′-(trifluoromethoxy)biphenyl-3-yl}propenoate (590 mg, 1.293 mmol), methanol (1 ml), tetrahydrofuran (4 ml) and 2N aqueous sodium hydroxide (1.94 ml) was stirred at 60° C. for 1 hour. The reaction mixture was cooled to room temperature, acidified by addition of 2N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (550 mg, 93.2%) as a pale yellow oil.

reactant | methyl (Z)-3-{4-[4-(tert-butyl)phenoxy]-4′-(trifluoromethoxy)biphenyl-3-yl}propenoate | 1.293 mmol, 590 mg | C(C)(C)(C)C1=CC=C(OC2=C(C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)\C=C/C(=O)OC)C=C1 | C27H25F3O4
reactant | methanol | 1 ml | CO | CH4O
reactant | sodium hydroxide | 2N, 1.94 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | (Z)-3-{4-[4 (tert-butyl)phenoxy]-4′-(trifluoromethoxy)biphenyl-3-yl}propenoic acid | 550 mg, 93.2% | C(C)(C)(C)C1=CC=C(OC2=C(C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)\C=C/C(=O)O)C=C1 | C26H23F3O4
